US06329400B1
To a solution of ethyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoate (1.70 g, 6.12 mmol) in THF-ethanol (2:1, 18 mL) is added 1 N aqueous sodium hydroxide solution (6.7 mL, 6.7 mmol). The solution is stirred at 23° C. for 20 h and is acidified to pH 3 with saturated aqueous sodium bisulfate and is extracted with two 50-mL portions of EtOAc. The combined organic layers are dried over anhydrous magnesium sulfate and concentrated under reduced pressure to provide (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoic acid as an oil (1.53 g, 100% yield).

reactant | ethyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoate | 6.12 mmol, 1.70 g | C1(=CC=CC=C1)CCC[C@@H](C(=O)OCC)[C@@H](CCC)O | C17H26O3
reactant | sodium hydroxide | 6.7 mmol, 1 N, 6.7 mL | [OH-].[Na+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | THF ethanol | 18 mL | C1CCOC1.C(C)O
product | (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxyhexanoic acid | 1.53 g, 100% yield | C1(=CC=CC=C1)CCC[C@@H](C(=O)O)[C@@H](CCC)O | C15H22O3
